US04544657
A mixture of 1.16 g of 4-chloromethyl-6,7-dimethoxy-1-[(3,4-dimethoxyphenyl)methyl]isoquinoline, 0.8 g of 1-(para-methoxyphenyl)piperazine hydrochloride, and 1.3 ml of triethylamine in 10 ml dimethylsulfoxide was heated at 80° for one hour under argon. The cooled solution was then diluted with water and extracted with methylene chloride. The organic layer was washed with sodium bicarbonate solution, dried over sodium sulfate, charcoaled, and evaporated. The residue was crystallized from ethanol to give 1.3 g of 6,7-dimethoxy-1-{(3,4-dimethoxyphenyl)methyl}-4-([4-(4-methoxyphenyl)-1-piperazinyl]methyl)isoquinoline as a yellow solid, mp 176°-177°. Recrystallization from ethanol provided the analytical sample, mp 176°-177°.

reactant | 4-chloromethyl-6,7-dimethoxy-1-[(3,4-dimethoxyphenyl)methyl]isoquinoline | 1.16 g | ClCC1=CN=C(C2=CC(=C(C=C12)OC)OC)CC1=CC(=C(C=C1)OC)OC | C21H22ClNO4
reactant | 1-(para-methoxyphenyl)piperazine hydrochloride | 0.8 g | Cl.COC1=CC=C(C=C1)N1CCNCC1
reactant | triethylamine | 1.3 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 6,7-dimethoxy-1-{(3,4-dimethoxyphenyl)methyl}-4-([4-(4-methoxyphenyl)-1-piperazinyl]methyl)isoquinoline | 1.3 g | COC=1C=C2C(=CN=C(C2=CC1OC)CC1=CC(=C(C=C1)OC)OC)CN1CCN(CC1)C1=CC=C(C=C1)OC | C32H37N3O5
